### PR TITLE
[Merged by Bors] - feat: Rank of a hermitian matrix is the count of non-zero eigenvalues

### PR DESCRIPTION
**Pull request by MohanadAhmed**
This PR provides the lemmas:

- `IsHermitian.spectral_theorem'`: a slightly modified spectral_theorem such that the hermitian matrix can be directly replaced.
$$A = VDV^{-1}\quad D = \text{diag}(d)$$
- `IsHermitian.rank_eq_count_non_zero_eigs`: the rank of a hermitian matrix is the number of non-zero eigenvalues of that matrix
$$\text{rank}(A) = \text{card} \lbrace \quad i \quad | \quad d_i \neq 0 \rbrace$$
- `IsHermitian.rank_eq_rank_diagonal`: the rank of a hermitian matrix is the same as its rank after diagonalization by the eigenvector matrix
$$\text{rank}(A) = \text{rank}(D)$$
- `Matrix.rank_diagonal`: the rank of a diagonal matrix is the number of non-zero diagonal elements. Note that this was previously the name of a lemma about LinearMaps we take that name (but keep the align to avoid disrupting the tooling).
$$\text{rank}(V)  = \text{Diag}(v) \implies \text{rank}(V) = \text{card} \lbrace \quad i \quad | \quad v_i \neq 0 \rbrace$$
- `LinearMap.rank_diagonal`: the rank of a linear map that is formed from a diagonal matrix is the number of non-zero diagonal entries. This was previously called `Matrix.rank_diagonal`.

Co-authored-by: Mohanad Ahmed <m.a.m.elhassan@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Diagonal.lean [hunk 1]
```diff
@@ -76,20 +77,39 @@ theorem range_diagonal [DecidableEq m] (w : m → K) :
...
+
+end LinearMap
+
+namespace Matrix
+
+section Field
+
+variable {m n : Type _} [Fintype m] [Fintype n] {K : Type u} [Field K]
+/-- The rank of a diagnonal matrix  is the count of non-zero elements on its main diagonal -/
+theorem rank_diagonal [DecidableEq m] [DecidableEq K] (w : m → K) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Diagonal.lean:109]: I'd argue this result belongs in `Daya.Matrix.Rank`

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/Diagonal.lean:109]: That will cause a build cycle

Comment (MohanadAhmed) [reply Mathlib/LinearAlgebra/Matrix/Diagonal.lean]: Done

File: Mathlib/Data/Matrix/Rank.lean [hunk 2]
```diff
@@ -198,6 +200,16 @@ proof that is a simple consequence of `Matrix.rank_transpose_mul_self` and
...
+section Field
+
+variable  [Field R]
+/-- The rank of a diagnonal matrix  is the count of non-zero elements on its main diagonal -/
+theorem rank_diagonal [DecidableEq m] [DecidableEq R] (w : m → R) :
+    ((Matrix.diagonal w).rank) = (Fintype.card {i // (w i) ≠ 0}) := by
+  rw [Matrix.rank, ← Matrix.toLin'_apply', FiniteDimensional.finrank, ← LinearMap.rank,
+    LinearMap.rank_diagonal, Cardinal.toNat_cast]
+
+end Field
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:212]: This is in the wrong place; the section above says these are lemmas about tranpose and conj_transpose. Can you move it above that comment?

File: Mathlib/Data/Matrix/Rank.lean [hunk 3]
```diff
@@ -8,8 +8,10 @@ import Mathlib.LinearAlgebra.Matrix.ToLin
 import Mathlib.LinearAlgebra.FiniteDimensional
 import Mathlib.LinearAlgebra.Matrix.DotProduct
 import Mathlib.LinearAlgebra.Determinant
+import Mathlib.LinearAlgebra.Matrix.Diagonal
 import Mathlib.Data.Complex.Module
 
+
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:14]: nit: please remove this blank line

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 4]
```diff
@@ -133,6 +134,28 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
...
+/-- *spectral theorem (alternate)* (Alternate from for convenience) A hermitian matrix can be can be
+replaced by a diagonal matrix sandwiched between the eigenvector matrices. This alternate form
+allows direct rewriting of A since: $ A = V D V⁻¹$ -/
+lemma spectral_theorem' : A = (hA.eigenvectorMatrix) ⬝
+    ((Matrix.diagonal (IsROrC.ofReal ∘ hA.eigenvalues)) ⬝ hA.eigenvectorMatrixInv) := by
+  simpa [ ← Matrix.mul_assoc, hA.eigenvectorMatrix_mul_inv, Matrix.one_mul] using
+    (congr_arg (λ x => hA.eigenvectorMatrix ⬝  x) (hA.spectral_theorem))
+
+/-- rank of a hermitian matrix is the rank of after diagonalization by the eigenvector matrix -/
+lemma rank_eq_rank_diagonal : A.rank = (Matrix.diagonal (hA.eigenvalues)).rank := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:146]: nit:
```suggestion
lemma rank_eq_rank_diagonal : A.rank = (Matrix.diagonal hA.eigenvalues).rank := by
```

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 5]
```diff
@@ -133,6 +134,28 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
...
+  /- Use nth_rewrite to avoid motive is not type correct error and conv tactic !!! -/
+  nth_rewrite 1 [hA.spectral_theorem']
+  have hE := isUnit_det_of_invertible (hA.eigenvectorMatrix)
+  have hiE := isUnit_det_of_invertible (hA.eigenvectorMatrixInv)
+  simp only [rank_mul_eq_right_of_isUnit_det hA.eigenvectorMatrix _ hE,
+    rank_mul_eq_left_of_isUnit_det hA.eigenvectorMatrixInv _ hiE,
+    rank_diagonal, Function.comp_apply, ne_eq, algebraMap.lift_map_eq_zero_iff]
+
+/-- rank of a hermitian matrix is the number of nonzero eigenvalues of the hermitian matrix -/
+lemma rank_eq_count_non_zero_eigs : A.rank =  (Fintype.card {i // hA.eigenvalues i ≠ 0}) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:156]:
```suggestion
lemma rank_eq_count_non_zero_eigs : A.rank = Fintype.card {i // hA.eigenvalues i ≠ 0} := by
```

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 6]
```diff
@@ -133,6 +134,28 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
   simp_rw [Function.comp_apply]
 #align matrix.is_hermitian.det_eq_prod_eigenvalues Matrix.IsHermitian.det_eq_prod_eigenvalues
 
+/-- *spectral theorem (alternate)* (Alternate from for convenience) A hermitian matrix can be can be
+replaced by a diagonal matrix sandwiched between the eigenvector matrices. This alternate form
+allows direct rewriting of A since: $ A = V D V⁻¹$ -/
+lemma spectral_theorem' : A = (hA.eigenvectorMatrix) ⬝
+    ((Matrix.diagonal (IsROrC.ofReal ∘ hA.eigenvalues)) ⬝ hA.eigenvectorMatrixInv) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:141]:
```suggestion
lemma spectral_theorem' :
    A = hA.eigenvectorMatrix ⬝ diagonal ((↑) ∘ hA.eigenvalues) ⬝ hA.eigenvectorMatrixInv := by
```
to look more like the lemma above

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 7]
```diff
@@ -133,6 +136,28 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
   simp_rw [Function.comp_apply]
 #align matrix.is_hermitian.det_eq_prod_eigenvalues Matrix.IsHermitian.det_eq_prod_eigenvalues
 
+/-- *spectral theorem (alternate)* (Alternate from for convenience) A hermitian matrix can be can be
+replaced by a diagonal matrix sandwiched between the eigenvector matrices. This alternate form
+allows direct rewriting of A since: $ A = V D V⁻¹$ -/
+lemma spectral_theorem' :
+    A = hA.eigenvectorMatrix ⬝ diagonal ((↑) ∘ hA.eigenvalues) ⬝ hA.eigenvectorMatrixInv := by
+  simpa [ ← Matrix.mul_assoc, hA.eigenvectorMatrix_mul_inv, Matrix.one_mul] using
+    (congr_arg (λ x => hA.eigenvectorMatrix ⬝  x) (hA.spectral_theorem))
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:145]: style nit:
```suggestion
    congr_arg (fun x => hA.eigenvectorMatrix ⬝ x) hA.spectral_theorem
```

File: Mathlib/Data/Matrix/Rank.lean [hunk 8]
```diff
@@ -184,6 +185,18 @@ theorem rank_eq_finrank_span_cols (A : Matrix m n R) :
 
 end CommRing
 
+section Field
+
+variable  [Field R]
+
+/-- The rank of a diagnonal matrix  is the count of non-zero elements on its main diagonal -/
+theorem rank_diagonal [DecidableEq m] [DecidableEq R] (w : m → R) :
+    ((Matrix.diagonal w).rank) = (Fintype.card {i // (w i) ≠ 0}) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:194]: style nit:
```suggestion
    (diagonal w).rank = Fintype.card {i // (w i) ≠ 0} := by
```

File: Mathlib/Data/Matrix/Rank.lean [hunk 9]
```diff
@@ -184,6 +185,18 @@ theorem rank_eq_finrank_span_cols (A : Matrix m n R) :
 
 end CommRing
 
+section Field
+
+variable  [Field R]
+
+/-- The rank of a diagnonal matrix  is the count of non-zero elements on its main diagonal -/
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Rank.lean:192]:
```suggestion
variable [Field R]

/-- The rank of a diagnonal matrix is the count of non-zero elements on its main diagonal -/
```

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 10]
```diff
@@ -3,8 +3,11 @@ Copyright (c) 2022 Alexander Bentkamp. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Alexander Bentkamp
 -/
+import Mathlib.Data.Matrix.Rank
 import Mathlib.Analysis.InnerProductSpace.Spectrum
 import Mathlib.LinearAlgebra.Matrix.Hermitian
+import Mathlib.LinearAlgebra.Matrix.Diagonal
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:10]: Usually we sort alphabetically:
```suggestion
import Mathlib.Analysis.InnerProductSpace.Spectrum
import Mathlib.Data.Matrix.Rank
import Mathlib.LinearAlgebra.Matrix.Diagonal
import Mathlib.LinearAlgebra.Matrix.Hermitian
```

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 11]
```diff
@@ -133,6 +135,28 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
   simp_rw [Function.comp_apply]
 #align matrix.is_hermitian.det_eq_prod_eigenvalues Matrix.IsHermitian.det_eq_prod_eigenvalues
 
+/-- *spectral theorem (alternate)* (Alternate from for convenience) A hermitian matrix can be can be
+replaced by a diagonal matrix sandwiched between the eigenvector matrices. This alternate form
+allows direct rewriting of A since: $ A = V D V⁻¹$ -/
+lemma spectral_theorem' :
+    A = hA.eigenvectorMatrix ⬝ diagonal ((↑) ∘ hA.eigenvalues) ⬝ hA.eigenvectorMatrixInv := by
+  simpa [ ← Matrix.mul_assoc, hA.eigenvectorMatrix_mul_inv, Matrix.one_mul] using
+    congr_arg (fun x => hA.eigenvectorMatrix ⬝ x) hA.spectral_theorem
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:144]: A neat trick: in lean4 you can write this with `\.`
```suggestion
    congr_arg (hA.eigenvectorMatrix ⬝ ·) hA.spectral_theorem
```

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 12]
```diff
@@ -133,6 +135,28 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
...
+
+/-- rank of a hermitian matrix is the rank of after diagonalization by the eigenvector matrix -/
+lemma rank_eq_rank_diagonal : A.rank = (Matrix.diagonal hA.eigenvalues).rank := by
+  /- Use nth_rewrite to avoid motive is not type correct error and conv tactic !!! -/
+  nth_rewrite 1 [hA.spectral_theorem']
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:149]: I think this comment can go. `conv` here would also be reasonable, as
```suggestion
  conv_lhs => rw [hA.spectral_theorem']
```

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 13]
```diff
@@ -133,6 +135,28 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
...
+  have hE := isUnit_det_of_invertible (hA.eigenvectorMatrix)
+  have hiE := isUnit_det_of_invertible (hA.eigenvectorMatrixInv)
+  simp only [rank_mul_eq_right_of_isUnit_det hA.eigenvectorMatrix _ hE,
+    rank_mul_eq_left_of_isUnit_det hA.eigenvectorMatrixInv _ hiE,
+    rank_diagonal, Function.comp_apply, ne_eq, algebraMap.lift_map_eq_zero_iff]
+
+/-- rank of a hermitian matrix is the number of nonzero eigenvalues of the hermitian matrix -/
+lemma rank_eq_count_non_zero_eigs : A.rank = Fintype.card {i // hA.eigenvalues i ≠ 0} := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:157]:
```suggestion
lemma rank_eq_card_non_zero_eigs : A.rank = Fintype.card {i // hA.eigenvalues i ≠ 0} := by
```

**Review by eric-wieser — APPROVED** [review]
bors d=@j-loreaux

LGTM, but I discussed some of this privately with @MohanadAhmed; and "spectral" sounds like it falls in your ballpark.

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 14]
```diff
@@ -133,6 +135,27 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
   simp_rw [Function.comp_apply]
 #align matrix.is_hermitian.det_eq_prod_eigenvalues Matrix.IsHermitian.det_eq_prod_eigenvalues
 
+/-- *spectral theorem (alternate)* (Alternate from for convenience) A hermitian matrix can be can be
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:138]:
```suggestion
/-- *spectral theorem* (Alternate form for convenience) A hermitian matrix can be can be
```

File: Mathlib/LinearAlgebra/Matrix/Spectrum.lean [hunk 15]
```diff
@@ -133,6 +135,27 @@ theorem det_eq_prod_eigenvalues : det A = ∏ i, (hA.eigenvalues i : 𝕜) := by
...
+replaced by a diagonal matrix sandwiched between the eigenvector matrices. This alternate form
+allows direct rewriting of A since: $ A = V D V⁻¹$ -/
+lemma spectral_theorem' :
+    A = hA.eigenvectorMatrix ⬝ diagonal ((↑) ∘ hA.eigenvalues) ⬝ hA.eigenvectorMatrixInv := by
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Matrix/Spectrum.lean:142]: This isn't something to deal with in this PR, but really `Matrix.IsHermitian.eigenvectorMatrix` should be a term of type `unitary (Matrix n n 𝕜)`. It would make the proof of `Matrix.IsHermitian.rank_eq_rank_diagonal` simpler too.

**Review by j-loreaux — APPROVED** [review]
This looks good to me (modulo a typo). The alternate form of the spectral theorem, while I still think worth having, will be much less necessary after we refactor `Matrix.IsHermitian.eigenvectorMatrix` to be a term of the appropriate type (`unitary (Matrix n n 𝕜)`)

**Comment by j-loreaux** [comment]
Thanks!

bors r+
